US09216228B2
DMAP (0.1 equiv, 14.8 mmol, 1.81 g) and DIPC (1.5 equiv., 222.3 mmol, 34.5 mL) were added under nitrogen atmosphere slowly at 0° C. to a solution of Cbz-Glu-OtBu (1 equiv., 148.2 mmol, 50 g) and tetrt.butyl-carbazate (1.5 equiv., 222.3 mmol, 29.4 g) in dry DCM (100 mL). The mixture was stirred then at RT for 16 h. The solid was removed by suction filtration and washed with DCM. The organic layer was extracted with 0.1 M HCl (10×100 mL). The organic phase was then extracted with brine, water, dried and the solvent was removed under reduced pressure to give Cbz-Glu-NH—NH-BOC as a white solid (66.6 g) 60 g Cbz-Glu-NH—NH-BOC was dissolved under nitrogen in dry methanol (200 mL). Pd/C (10%, 2.5 g) was added and a hydrogen balloon was applied to the flask. The reaction mixture was stirred au RT for 4 d during which the balloons were exchanged with new ones. The suspension was then diluted with methanol, filtered over celite and the solvent was removed under reduced pressure. The oily rest was purified by FC on silica eluting with CHCl3/MeOH 20:1 to give H-Glu-NH—NH-BOC as a white solid (42 g). The 6-maleimidocaproic acid chloride was prepared from maleimidocaproic acid (82.78 mmol, 17.35 g) and oxalic acid chloride (1.0 equiv, 82.78 mmol, 9.93 mL) in dry DCM (180 mL). Then dry trietylamine (82.8 mmol, 11.47 mL) was added at RT under nitrogen atmosphere to a solution of H-Glu-NH—NH-BOC (82.8 mmol, 26.36 g) in dry DCM (300 mL) followed by slowly adding the solution of the 6-maleimidocaproic acid chloride. The reaction solution was stirred at RT for 18 h. The solvent was removed under reduced pressure. The oily residue was purified by flash chromatography on silica eluting with EE/hexane (i) 1:1, (i) 2:1, (i) 4:1 to give EMC-Glu-NH—NH-BOC as a white solid (36 g, 76%).

reactant | DIPC | 222.3 mmol, 34.5 mL, 1.5 equiv. | CC(N=C=NC(C)C)C | C7H14N2
reactant | Cbz-Glu-OtBu | 148.2 mmol, 50 g, 1 equiv. | N([C@@H](CCC(O)=O)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C17H23NO6
reactant | butyl-carbazate | 222.3 mmol, 29.4 g, 1.5 equiv. | C(CCC)OC(NN)=O | C5H12N2O2
reactant | DCM | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 14.8 mmol, 1.81 g, 0.1 equiv | CN(C)C=1C=CN=CC1 | C7H10N2
product | Cbz-Glu-NH—NH-BOC | 66.6 g | N([C@@H](CCC(O)=O)C(=O)NNC(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C18H25N3O7
